US06995144B2
3-Methoxy-5-methylpyrazine-2-carboxaldehyde
After dissolving 3.34 g of 5-chloro-3-methoxypyrazine-2-carboxaldehyde dimethylacetal in 50 ml of tetrahydrofuran, 400 mg of [1,3-bis(diphenylphosphino)propane]dichloronickel(II) was added, 9.17 ml of dimethyl zinc (2.0 M, toluene solution) was added dropwise under a nitrogen atmosphere, and the mixture was stirred at room temperature for 2 hours and then at 50° C. for 1.5 hours. The reaction solution was cooled on ice, water was added and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was dissolved in 16 ml of acetone, 4 ml of 5N hydrochloric acid was added and the mixture was all owed to stand at room temperature for 15 minutes. A sodium bicarbonate solution was added to the reaction solution and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (1.43 g, 61% yield).

reactant | 5-chloro-3-methoxypyrazine-2-carboxaldehyde dimethylacetal | 3.34 g | COC(C1=NC=C(N=C1OC)Cl)OC | C8H11ClN2O3
reactant | dimethyl zinc | 2.0 M, 9.17 ml | C[Zn]C
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | [1,3-bis(diphenylphosphino)propane]dichloronickel(II) | 400 mg | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 3-Methoxy-5-methylpyrazine-2-carboxaldehyde | 1.43 g, 61% yield | COC=1C(=NC=C(N1)C)C=O | C7H8N2O2
